US09085583B2
Step 4: (±)-1-(1-(4-chlorophenyl)ethyl)-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide (Compound 170)
To a solution of 1-(1-(4-chlorophenyl)ethyl)-2-methyl-1H-indole-3-carboxylic acid (200 mg, 0.64 mmol) in anhydrous DCM (5 mL) was added HOBt (130 mg, 0.96 mmol), EDCI (184 mg, 0.96 mmol) and Et3N (194 mg, 1.92 mmol) at room temperature under N2. The reaction was stirred for 30 min and then 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (107 mg, 0.7 mmol) was added. The reaction was stirred at room temperature overnight. The mixture was diluted with water and adjusted to pH 7 and extracted with DCM. The crude product was purified by silica gel chromatography (Eluent: DCM:MeOH=30:1) to afford the title compound a yellow solid. (120 mg, yield 41.9%) 1H NMR (DMSO-d6, 400 MHz) δ 11.6 (s, 1H), 7.74-7.68 (m, 2H), 7.39 (dd, J1=2.0 Hz, J2=6.8 Hz, 2H), 7.16 (d, J=8.4 Hz, 2H), 7.06-6.93 (m, 3H), 5.92 (t, J=7.2 Hz, 2H), 4.33 (d, J=5.6 Hz, 2H), 2.59 (s, 3H), 2.26 (s, 3H), 2.11 (s, 3H), 1.87 (d, J=7.2 Hz, 3H); ESI-MS: m/z 447.8 [M+H]+.

reactant | 1-(1-(4-chlorophenyl)ethyl)-2-methyl-1H-indole-3-carboxylic acid | 0.64 mmol, 200 mg | ClC1=CC=C(C=C1)C(C)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C18H16ClNO2
reactant | HOBt | 0.96 mmol, 130 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.96 mmol, 184 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | Et3N | 1.92 mmol, 194 mg | CCN(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.7 mmol, 107 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (±)-1-(1-(4-chlorophenyl)ethyl)-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1H-indole-3-carboxamide | yield 41.9% | ClC1=CC=C(C=C1)C(C)N1C(=C(C2=CC=CC=C12)C(=O)NCC=1C(=NC(=CC1C)C)O)C | C26H26ClN3O2
